US08202858B2
4-Aminomethyl-3-fluorobenzoic Acid Methyl Ester
Hydrogen was passed through a degassed solution of 4-azidomethyl-3-fluorobenzoic acid methyl ester from Example E3.3 (2.11 g, 10 mmol) in methanol containing 10% palladium on carbon for 2 h. The reaction mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to give a colourless oil identified as the title compound (1.51 g, 83%).

reactant | Hydrogen | [H][H] | H2
reactant | 4-azidomethyl-3-fluorobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN=[N+]=[N-])F)=O | C9H8FN3O2
solvent | methanol | CO | CH4O
product | 4-Aminomethyl-3-fluorobenzoic Acid Methyl Ester | 1.51 g, 83% | COC(C1=CC(=C(C=C1)CN)F)=O | C9H10FNO2
